US08222248B2
To 2-(2,6-dimethylphenyl)-6-formyl-benzoimidazole-1-carboxylic acid tert-butyl ester (565 mg) was added 16 mL of a 0.5 M solution of trifluoromethyltrimethylsilane in THF. When a solution formed the mixture was cooled to −30° C. then a solution of TBAF (1.76 mL of a 1.0M solution in THF) was added dropwise. The mixture was stirred at −30° C. for 45 min then was allowed to warm to 5° C. The mixture was extracted with EtOAc (2×) and the combined organic layers were dried over sodium sulfate. The solvent was removed under reduced pressure and the resulting foam was purified by flash chromatography using 10% EtOAc/methylene chloride as eluent to give 2-(2,6-dimethyl-phenyl)-6-(2,2,2-trifluoro-1-hydroxyethyl)-benzoimidazole-1-carboxylic acid tert-butyl ester as a waxy solid. MS (ESI)m/z 421 (M+H).

reactant | 2-(2,6-dimethylphenyl)-6-formyl-benzoimidazole-1-carboxylic acid tert-butyl ester | 565 mg | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=C(C=C2)C=O)C2=C(C=CC=C2C)C | C21H22N2O3
reactant | trifluoromethyltrimethylsilane | FC(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | C1CCOC1 | C4H8O
product | 2-(2,6-dimethyl-phenyl)-6-(2,2,2-trifluoro-1-hydroxyethyl)-benzoimidazole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=C(C=C2)C(C(F)(F)F)O)C2=C(C=CC=C2C)C | C22H23F3N2O3
